US08580804B2
(S)-4,4-dicyano-N-(2-fluorobenzoyl)-3-phenyl-butanamide
(E)-N-Cinnamoyl-2-fluorobenzamide (26.9 mg, 0.1 mmol), malononitrile (13.2 mg, 0.2 mmol) and the compound (10 mol %) shown in the following Table 2 as an asymmetric catalyst were stirred in toluene (1.0 mL) at room temperature for 27 hr. The reaction mixture was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to give the title compound as a white solid.

reactant | (E)-N-Cinnamoyl-2-fluorobenzamide | 0.1 mmol, 26.9 mg | C(\C=C\C1=CC=CC=C1)(=O)NC(C1=C(C=CC=C1)F)=O | C16H12FNO2
reactant | malononitrile | 0.2 mmol, 13.2 mg | C(CC#N)#N | C3H2N2
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-4,4-dicyano-N-(2-fluorobenzoyl)-3-phenyl-butanamide | C(#N)C([C@H](CC(=O)NC(C1=C(C=CC=C1)F)=O)C1=CC=CC=C1)C#N | C19H14FN3O2
